Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9],-4.34191408086
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[C:3]#[C:4][O:5][C:6]([H:7])[H:8].[H:1][O:2],5.83498875041
[O:1][C@@:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]1=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-0.615324239559
[C:9]([H:10])([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.64332779508
[O:1]=[C:2]([H:3])[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8],3.10197389164
[H:1][O:2][C:3][C:12]([C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])([H:13])[H:14]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],-3.872619
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2]=[O:3]>>[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.35359655047
[H:1][C:2]#[C:3][C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-1.75888724092
[H:1].[O:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-3.15906792077
[H:1][C:2]=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],-4.29951432657
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6],1.4751890795500002
[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1][O:2][C:3]([C:4]([H:5])=[C:6][H:7])=[C:8]([H:9])[H:10],3.18481548031
[O:1]=[C:2]([C:3]([H:4])[H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5],2.07495626526
[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]>>[O:1]=[C:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.55062104403
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3],4.11658621916
[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]([C:2]([C:3]([H:4])([H:8])[H:10])[H:9])[H:6].[O:5]=[C:7],0.440103769991
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2],6.4494625699
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9].[O:1],7.02331454725
[H:1][C:2]([O:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][C:2]([O:3][C:4]#[C:5][H:6])[C:10]([H:11])([H:12])[H:13],4.62786644039
[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11],-3.93349558809
[H:1][C:2][O:3][C:4][H:5].[O:6][H:7]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][H:7],-6.337913126980001
[O:1]=[C:2][C@:3]1([H:4])[O:5][C:6][C:7]1[H:8]>>[O:1]=[C:2]=[C:3]([H:4])[C:7](=[C:6]=[O:5])[H:8],-4.12864916699
[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-6.36038933607
[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-4.36820961627
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6],3.70742688716
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8],4.25629887304
[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5][H:6]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]\[C:8]([H:9])([H:10])[H:11],-6.28075263273
[C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13],-3.86998677729
[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-7.184683628010001
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:4],3.030856711
